US07741327B2
A solution of (benzhydrylidene-amino)-acetic acid ethyl ester (5.48 g, 20.5 mmol) in tetrahydrofuran (40 mL) was treated with potassium t-butoxide (2.83 g, 25.26 mmol) and stirred at 0° C. for 35 min. At this time a solution of (S)-1-iodo-2-methyl-butane (5.00 g, 25.25 mmol) in tetrahydrofuran (20 mL) was added via syringe and the resulting solution stirred at 0° C. for 10 min and then room temperature overnight. The reaction mixture was concentrated in vacuo and the residue partitioned between diethyl ether and dilute aqueous hydrochloric acid. The layers were separated, and the organic layer was washed with brine and concentrated in vacuo. The residue was purified by ISCO flash chromatography (RediSep silica 120 g, 0% to 10% ethyl acetate/hexanes) which afforded (S)-2-(benzhydrylidene-amino)-4-methyl-hexanoic acid ethyl ester (5.09 g, 74%) as an oil.

reactant | (benzhydrylidene-amino)-acetic acid ethyl ester | 20.5 mmol, 5.48 g | C(C)OC(CN=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H17NO2
reactant | potassium t-butoxide | 25.26 mmol, 2.83 g | CC(C)([O-])C.[K+]
reactant | (S)-1-iodo-2-methyl-butane | 25.25 mmol, 5.00 g | IC[C@H](CC)C | C5H11I
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (S)-2-(benzhydrylidene-amino)-4-methyl-hexanoic acid ethyl ester | 5.09 g, 74% | C(C)OC([C@H](CC(CC)C)N=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C22H27NO2
